US09227978B2
tert-Butyl 3-carbamoylpiperazine-1-carboxylate
To a solution of piperazine-2-carboxamide dihydrochloride (2.02 g, 10 mmol) and Et3N (3.03 g, 30 mmol) in DCM (40 mL) at 0° C., (Boc)2O (2.18 g, 10 mmol) was added dropwise (over 1 h). The resulting solution was stirred at room temperature for 16 h and then partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (DCM/MeOH=30:1) to afford the desired product (1.1 g, 48.0% yield).

reactant | piperazine-2-carboxamide dihydrochloride | 10 mmol, 2.02 g | Cl.Cl.N1C(CNCC1)C(=O)N
reactant | Et3N | 30 mmol, 3.03 g | CCN(CC)CC | C6H15N
reactant | (Boc)2O | 10 mmol, 2.18 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 3-carbamoylpiperazine-1-carboxylate | 1.1 g, 48.0% yield | C(N)(=O)C1CN(CCN1)C(=O)OC(C)(C)C | C10H19N3O3
